* C:\Users\KenBoak\OneDrive - Sentinel Photonics\Documents\LTspice\4_bit_ripple_counter.asc
* Generated by LTspice 24.1.6 for Windows.
R3 RST_1 N037 3K4
R4 RST_1 N021 1K8
D4 N037 QN0 1N4148
D8 N037 N045 NSPW500BS
Q2 N021 N045 0 0 2N2369
V1 RST_1 0 5
V2 CLKin 0 PULSE(0 5 0 10n 10n 250n 500n 0)
C1 RST_1 0 22µ
R5 RST_1 N038 3K4
R6 RST_1 N022 1K8
D9 N038 N021 1N4148
D12 N038 N046 NSPW500BS
Q3 N022 N046 0 0 2N2369
R7 RST_1 N001 3K4
R8 RST_1 QP0 1k8
D13 N001 QN0 1N4148
D14 N001 N009 1N4148
D16 N001 N010 NSPW500BS
Q4 QP0 N010 0 0 2N2369
R9 RST_1 N002 3K4
R10 RST_1 QN0 1k8
D17 N002 QP0 1N4148
D18 N002 RST_1 1N4148
D20 N002 N011 NSPW500BS
Q5 QN0 N011 0 0 2N2369
R11 CLKin clk 3K4
R12 clk 0 3K4
R13 RST_1 reset 3.4K
R14 reset 0 3.4K
R27 RST_1 N029 3K4
R28 RST_1 CLKN0 1k8
D27 N029 N030 NSPW500BS
Q8 CLKN0 N030 0 0 2N2369
D28 N029 CLKin 1N4148
C5 CLKN0 N021 100p
C6 N022 CLKN0 100p
D15 N010 N021 1N4148
D19 N011 N022 1N4148
R1 RST_1 N039 3K4
R2 RST_1 N023 1K8
D1 N039 QN1 1N4148
D2 N039 N047 NSPW500BS
Q1 N023 N047 0 0 2N2369
R19 RST_1 N040 3K4
R20 RST_1 N024 1K8
D3 N040 N023 1N4148
D5 N040 N048 NSPW500BS
Q6 N024 N048 0 0 2N2369
R21 RST_1 N003 3K4
R22 RST_1 QP1 1k8
D6 N003 QN1 1N4148
D7 N003 N012 1N4148
D10 N003 N013 NSPW500BS
Q7 QP1 N013 0 0 2N2369
R23 RST_1 N004 3K4
R24 RST_1 QN1 1k8
D11 N004 QP1 1N4148
D21 N004 RST_1 1N4148
D22 N004 N014 NSPW500BS
Q9 QN1 N014 0 0 2N2369
R31 RST_1 N031 3K4
R32 RST_1 CLKN1 1k8
D23 N031 N032 NSPW500BS
Q10 CLKN1 N032 0 0 2N2369
D24 N031 QN0 1N4148
C2 CLKN1 N023 100p
C3 N024 CLKN1 100p
D25 N013 N023 1N4148
D26 N014 N024 1N4148
R15 RST_1 N041 3K4
R16 RST_1 N025 1K8
D29 N041 QN2 1N4148
D30 N041 N049 NSPW500BS
Q11 N025 N049 0 0 2N2369
R17 RST_1 N042 3K4
R18 RST_1 N026 1K8
D31 N042 N025 1N4148
D32 N042 N050 NSPW500BS
Q12 N026 N050 0 0 2N2369
R25 RST_1 N005 3K4
R26 RST_1 QP2 1k8
D33 N005 QN2 1N4148
D34 N005 N015 1N4148
D35 N005 N016 NSPW500BS
Q13 QP2 N016 0 0 2N2369
R29 RST_1 N006 3K4
R30 RST_1 QN2 1k8
D36 N006 QP2 1N4148
D37 N006 RST_1 1N4148
D38 N006 N017 NSPW500BS
Q14 QN2 N017 0 0 2N2369
R33 RST_1 N033 3K4
R34 RST_1 CLKN2 1k8
D39 N033 N034 NSPW500BS
Q15 CLKN2 N034 0 0 2N2369
D40 N033 QN1 1N4148
C4 CLKN2 N025 100p
C7 N026 CLKN2 100p
D41 N016 N025 1N4148
D42 N017 N026 1N4148
R35 RST_1 N043 3K4
R36 RST_1 N027 1K8
D43 N043 QN3 1N4148
D44 N043 N051 NSPW500BS
Q16 N027 N051 0 0 2N2369
R37 RST_1 N044 3K4
R38 RST_1 N028 1K8
D45 N044 N027 1N4148
D46 N044 N052 NSPW500BS
Q17 N028 N052 0 0 2N2369
R39 RST_1 N007 3K4
R40 RST_1 QP3 1k8
D47 N007 QN3 1N4148
D48 N007 N018 1N4148
D49 N007 N019 NSPW500BS
Q18 QP3 N019 0 0 2N2369
R41 RST_1 N008 3K4
R42 RST_1 QN3 1k8
D50 N008 QP3 1N4148
D51 N008 RST_1 1N4148
D52 N008 N020 NSPW500BS
Q19 QN3 N020 0 0 2N2369
R43 RST_1 N035 3K4
R44 RST_1 CLKN3 1k8
D53 N035 N036 NSPW500BS
Q20 CLKN3 N036 0 0 2N2369
D54 N035 QN2 1N4148
C8 CLKN3 N027 100p
C9 N028 CLKN3 100p
D55 N019 N027 1N4148
D56 N020 N028 1N4148
R45 QP0 q0 1K
R46 q0 0 9K
R47 QP1 q1 2K
R48 q1 0 8K
R49 QP2 q2 3K
R50 q2 0 7K
R51 QP3 q3 4K
R52 q3 0 6K
.model D D
.lib C:\Users\KenBoak\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\KenBoak\AppData\Local\LTspice\lib\cmp\standard.bjt
;.dc SET_1
.tran 100u startup
.backanno
.end
